US04609650
16β-Ethyl-17β-(3-oxobutyryl)oxyacetoxy-4-estren-3-one
In 30 ml of dichloromethane is dissolved 0.8 g of 16β-ethyl-17β-glycoloyloxy-4-estren-3-one, and 0.24 g of anhydrous sodium acetate and 0.3 ml of diketene are added. The mixture is refluxed for 4 hours. After cooling, 100 ml of ethyl acetate is added and the mixture is washed with water and saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent is then distilled off under reduced pressure and the residue is subjected to column chromatography. Following serial passage of 400 ml of diisopropyl ether and 400 ml of diisopropyl ether-ethyl acetate (10:1), elution is carried out with 600 ml of isopropyl ether-ethyl acetate (2:3). The eluate is evaporated under reduced pressure to remove the solvent, giving 1.0 g of the above-identified compound as a light-yellow viscous oil.

reactant | 16β-ethyl-17β-glycoloyloxy-4-estren-3-one | 0.8 g | C(C)[C@@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)OC(CO)=O | C22H32O4
reactant | sodium acetate | 0.24 g | C(C)(=O)[O-].[Na+]
reactant | diketene | 0.3 ml | C=C1CC(=O)O1 | C4H4O2
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 16β-Ethyl-17β-(3-oxobutyryl)oxyacetoxy-4-estren-3-one | 1.0 g | C(C)[C@@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)OC(COC(CC(C)=O)=O)=O | C26H36O6
